US06403561B1
1-(2(S)-aminobutyryl)-3,3-dimethylindoline-2(R/S)-carboxylic acid butylamide;
1-(2(S)-aminobutyryl)-3(R)-methylindoline-2(S)-carboxylic acid butylamide and 1-(2(S)-aminobutyryl)-3(S)-methylindoline-2(R)-carboxylic acid butylamide;

reactant | 1-(2(S)-aminobutyryl)-3(R)-methylindoline-2(S)-carboxylic acid butylamide | C(CCC)NC(=O)[C@H]1N(C2=CC=CC=C2[C@H]1C)C([C@H](CC)N)=O | C18H27N3O2
reactant | 1-(2(S)-aminobutyryl)-3(S)-methylindoline-2(R)-carboxylic acid butylamide | C(CCC)NC(=O)[C@@H]1N(C2=CC=CC=C2[C@@H]1C)C([C@H](CC)N)=O | C18H27N3O2
product | 1-(2(S)-aminobutyryl)-3,3-dimethylindoline-2(R/S)-carboxylic acid butylamide | C(CCC)NC(=O)C1N(C2=CC=CC=C2C1(C)C)C([C@H](CC)N)=O | C19H29N3O2
